US07696352B2
To a solution of 1-(5-aminopyridin-2-yl)pyridin-2(1H)-one (316 mg, 1.69 mmol) in concentrated HCl (8 mL) cooled in an ice bath, a solution of NaNO2 (117 mg, 1.69 mmol) in H2O (3 mL) was added dropwise. After 30 min of stirring, NaI (1.03 g, 6.87 mmol) in H2O (4 mL) was added. The mixture was stirred at 0° C. for 1 h. It was then allowed to warm up to room temperature and stirred at room temperature overnight. The mixture was extracted with EtOAc. The EtOAc solution was washed with 5% NaHCO3, then with Na2S2O3, dried over Na2SO4, and concentrated in vacuo to give 1-(5-iodopyridin-2-yl)pyridin-2(1H)-one (189 mg).

reactant | 1-(5-aminopyridin-2-yl)pyridin-2(1H)-one | 1.69 mmol, 316 mg | NC=1C=CC(=NC1)N1C(C=CC=C1)=O | C10H9N3O
reactant | NaNO2 | 1.69 mmol, 117 mg | N(=O)[O-].[Na+]
reactant | NaI | 6.87 mmol, 1.03 g | [Na+].[I-]
solvent | HCl | 8 mL | Cl | ClH
solvent | H2O | 3 mL | O | H2O
solvent | H2O | 4 mL | O | H2O
product | 1-(5-iodopyridin-2-yl)pyridin-2(1H)-one | 189 mg | IC=1C=CC(=NC1)N1C(C=CC=C1)=O | C10H7IN2O
